US08445725B2
A 4000 L glass-lined reactor was charged with ethyl acetate (2250 kg), 3-amino-5-(aminocarbonyl)-2,4,6-triiodobenzoic acid (1125 kg) and tetramethylurea (4.75 kg). The reaction mixture was stirred and heated to 74° C. Thionyl chloride (528 kg) was charged over 1 hour. The reaction mixture was maintained at 74° C. for 12 hours. While cooling to 45° C., additional ethyl acetate (180 kg) was charged. Water (73 kg) was charged over 1 hour and the reaction mixture was cooled to 28° C. After stirring for 7 hours, the solid product was isolated by filtration and the solids were washed with ethyl acetate (250 kg). After drying at 40° C. under vacuum, 927 kg of 3-amino-5-(aminocarbonyl)-2,4,6-triiodobenzoyl chloride were isolated which had a chromatographic purity of 92.4 area %.

reactant | ethyl acetate | 2250 kg | C(C)(=O)OCC | C4H8O2
reactant | 3-amino-5-(aminocarbonyl)-2,4,6-triiodobenzoic acid | 1125 kg | NC=1C(=C(C(=O)O)C(=C(C1I)C(=O)N)I)I | C8H5I3N2O3
reactant | Thionyl chloride | 528 kg | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl acetate | 180 kg | C(C)(=O)OCC | C4H8O2
catalyst | tetramethylurea | 4.75 kg | CN(C(N(C)C)=O)C | C5H12N2O
solvent | Water | 73 kg | O | H2O
product | 3-amino-5-(aminocarbonyl)-2,4,6-triiodobenzoyl chloride | 927 kg | NC=1C(=C(C(=O)Cl)C(=C(C1I)C(=O)N)I)I | C8H4ClI3N2O2
